US05246948
Synthesis of 4-[3-(3-hydroxyisoindolin-1-on-2-yl)propylthio]pyridine
To a solution of 5.97 g (20.0 mmol) of 4-(3-phthalimidopropylthio)pyridine in 300 ml of ethanol, 1.51 g (40 mmol) of sodium borohydride was added, and the mixture was stirred at room temperature for 5 hours. The solvent was distilled off and saturated saline was added to the residue. The mixture was extracted with chloroform and the extract was dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by column chromatography (eluent: ethanol/ethyl acetate =1:10 to give 3.27 g of the desired compound (54.4% yield, colorless crystals), mp. 132°-134° C. NMR (200 MHz, CDCl3) δ: 2.11 (2H, m), 2.97 (2H, m), 3.72 (2H, m), 5.83 (1H, s), 6.98 (2H, d, J=5.4 Hz), 7.47-7.67 (3H, m), 7.77 (1H, dd, J=7.6, 1.2 Hz), 8.02 (2H, m).

reactant | 4-(3-phthalimidopropylthio)pyridine | 20.0 mmol, 5.97 g | C1(C=2C(C(N1CCCSC1=CC=NC=C1)=O)=CC=CC2)=O | C16H14N2O2S
reactant | sodium borohydride | 40 mmol, 1.51 g | [BH4-].[Na+]
reactant | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-[3-(3-hydroxyisoindolin-1-on-2-yl)propylthio]pyridine | 3.27 g, 54.4% yield | OC1N(C(C2=CC=CC=C12)=O)CCCSC1=CC=NC=C1 | C16H16N2O2S
